US07378409B2
A solution of the crude dihydrobromide salt of (1R,3R,4S)-N1-isopropyl-3-(methoxymethyl)-N1-methylcyclohexane-1,4-diamine prepared according to the procedure of Example 4b, Step 2 (270 mg) in dichloromethane (5 mL) was treated with tert-butoxycarbonylaminoacetic acid (126 mg), diisopropylethylamine (0.80 ml) and HATU (516 mg). The mixture was stirred for 3 h at rt. Ethyl acetate and saturated aqueous NaHCO3 were added and the layers were separated. The aqueous layer was extracted with additional ethyl acetate. The combined organic layers were washed with brine, dried over Na2SO4, and concentrated under vacuum to provide tert-butyl 2-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-(methoxymethyl)cyclohexylamino)-2-oxoethylcarbamate (185 mg) as a yellow gum, used without further purification. MS found: (M+H)+=372.4.

reactant | (1R,3R,4S)-N1-isopropyl-3-(methoxymethyl)-N1-methylcyclohexane-1,4-diamine | C(C)(C)N([C@H]1C[C@H]([C@H](CC1)N)COC)C | C12H26N2O
reactant | tert-butoxycarbonylaminoacetic acid | 126 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | diisopropylethylamine | 0.80 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 516 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-(methoxymethyl)cyclohexylamino)-2-oxoethylcarbamate | 185 mg | C(C)(C)N([C@H]1C[C@H]([C@H](CC1)NC(CNC(OC(C)(C)C)=O)=O)COC)C | C19H37N3O4
